US08703805B2
To a stirred solution of 2-bromo-5-(2-fluoro-1,1-dimethoxy-ethyl)-thiophene (9.4 g, 35 mmol) in MeCN (100 mL) was added 10% aq. HCl (50 mL) at 20° C. and the reaction mixture was stirred at ° C. for 3 h. Solvent was removed in vacuo to afford a residue, which was partitioned between DCM and water, the aqueous layer was extracted with DCM. The combined organic layers were washed with water, sat aq. NaHCO3 and brine, dried over sodium sulfate and evaporated in vacuo to give a white solid. It was dissolved in minimum volume of DCM, and a large volume of hexane was added. After evaporation of most of the solvent, solid precipitated and was then collected with filtration, washed with hexane and dried under high vacuum to afford 1-(5-bromo-thiophen-2-yl)-2-fluoro-ethanone (6.52 g, 84%). 1H-NMR (CDCl3): δ 7.64 (d, 1H), 7.15 (d, 1H), 5.26 (d, 2H).

reactant | 2-bromo-5-(2-fluoro-1,1-dimethoxy-ethyl)-thiophene | 35 mmol, 9.4 g | BrC=1SC(=CC1)C(CF)(OC)OC | C8H10BrFO2S
reactant | HCl | 50 mL | Cl | ClH
reactant | hexane | CCCCCC | C6H14
solvent | MeCN | 100 mL | CC#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(5-bromo-thiophen-2-yl)-2-fluoro-ethanone | 6.52 g, 84% | BrC1=CC=C(S1)C(CF)=O | C6H4BrFOS
